US06201129B1
A solution of ethyl 5-acetoxymethyl-4-acetyl-3-methylpyrrole-2-carboxylate (0.267 g, 1.0 mmol) and 3-carbethoxy-2-methylpyrrole (0.153 g, 1.0 mmol) in 1,2-dichloroethane (10 cm3) was heated at reflux and stirred with Montmorillonite clay (1 g) for 18 h. After filtration from clay and washing well with 1,2-dichloroethane, evaporation of the combined filtrates under reduced pressure gave an oil. This oil was submitted to flash chromatography on silica eluting with (0-20%) ethyl acetate in dichloromethane to give the starting 3-carbethoxy-2-methylpyrrole (0.045 g, 29.4%) and diethyl 1,5-dihydro-3,4,6-trimethylpyrrolo[2,3-f]indole-2,7-dicarboxylate as a colourless solid (0.021 g, 6.14%) m.p. 269° C. (decomp); δH ([2H6]-DMSO)11.34 (1H, s, 5-NH), 11.00 (1H, s, 1-NH), 7.80 (1H, s, 8-H), 4.33 (2H, q, 7-OCH2CH3), 4.26 (2H, q, 2-OCH2CH3), 2.85 (6H, s, 3-CH3 and 4-CH3), 2.69 (3H, s, 6-CH3), 1.39 (3H, t, 7-OCH2CH3), and 1.37 (3H, t, 2-OCH2CH3); saturation of the singlet 8-H at δ 7.80 enhanced the signal due to 1-NH at δ 11.00 (2.3%); m/z (%) 342 (75,M+), 296 (100), 268 (6), 223 (7) and 195 (5) (Found: M+ 342.1580. C19H22N2O4 requires M, 342.1579; λ max EtOH/nm (log ε max.dm3 mol−1 cm−1 378 (3.56), 365 sh (353), 329 (3.83), 3.04 (3.99) and 259 (3.74). Further elution gave diethyl 1,7-dihydro-3,4,6-trimethylpyrrolo[3,2-f]indole-2,5-dicarboxylate as a colourless solid (0.048 g, 14%) m.p. 216-216.5° C. (Found: C, 66.82; H, 6.68; N, 8.17. C19H22N2O4 requires C, 66.65; H, 6.48, N, 8.18%); δ ([2H6]-DMSO) 11.30 (1H, s, 7-NH), 10.91 (1H, s, 1N-H), 7.12 (1H, s, 8-11), 4.35 (2H, q, 5-OCH2CH3), 4.28 (2H, q, 2-OCH2CH3), 2.90 (3H, s, 4-CH3), 2.87 (3H, s, 3-CH3, 2.54 (3H, s, 6-CH3), 1.36 (3H, t, 5-OCH2CH3) and 1.34 (3H, t, 2-OCH2CH3); saturation of the 8-H proton at δ 7.12 enhanced the signals due to 7-NH at δ 11.30 (2.4%) and 1-NH at δ 10.91 (1.8%); m/z (%) 342 (64, M+), 296 (100), 250(5), and 194(9); λ max (EtOH)/nm (log ε max/dm3 mol−1 cm−1) 340 (4.10), 327.5 (4.53) and 270 (4.46), and the starting 5-acetoxymethyl-4-acetylpyrrole (0.029 g, 10.9%).

reactant | ethyl 5-acetoxymethyl-4-acetyl-3-methylpyrrole-2-carboxylate | 1.0 mmol, 0.267 g | C(C)(=O)OCC1=C(C(=C(N1)C(=O)OCC)C)C(C)=O | C13H17NO5
reactant | 3-carbethoxy-2-methylpyrrole | 1.0 mmol, 0.153 g | C(=O)(OCC)C1=C(NC=C1)C | C8H11NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dichloroethane | 10 cm3 | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | diethyl 1,5-dihydro-3,4,6-trimethylpyrrolo[2,3-f]indole-2,7-dicarboxylate | 0.021 g, 6.14% | CC1=C(NC2=CC=3C(=C(NC3C(=C21)C)C)C(=O)OCC)C(=O)OCC | C19H22N2O4
